US05891871
1-(2-Chloro-4-nitrophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
The title compound was prepared from methyl 4,5-methylenedioxy-2-(2-chloro-4-nitrobenzoyl)phenylacetate (11 g, 29 mmol) and hydrazine hydrate (5.0 mL, 88 mmol) in ethanol (60 mL) as a yellow solid (1.4 g, 3.9 mmol, 13%), mp: 202°-204° C. 1H NMR (CDCl3) 8.64 (s, 1H), 8.29-8.26 (m, 2H), 7.82 (d, J=8.2, 1H), 6.84 (s, 1H), 6.28 (s, 1H), 6.02 (s, 2H), 3.59 (s, 2H). Anal. Calcd. for C16H10N3O5.(1/2)H2O: C, 52.12; H, 3.01; N, 11.40. Found: C, 52.50; H, 3.36; N, 10.35.

reactant | methyl 4,5-methylenedioxy-2-(2-chloro-4-nitrobenzoyl)phenylacetate | 29 mmol, 11 g | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C17H12ClNO7
reactant | hydrazine hydrate | 88 mmol, 5.0 mL | O.NN
reactant | ethanol | 3.9 mmol, 60 mL, 1.4 g | C(C)O | C2H6O
product | 1-(2-Chloro-4-nitrophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | ClC1=C(C=CC(=C1)[N+](=O)[O-])C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O | C16H10ClN3O5
